US08022209B2
2-Chloro-4-(4-methyl-piperazin-1-yl)-6-thiophen-2-yl-pyrimidine
To a solution of 2-chloro-4-(3-chloro-thiophen-2-yl)-6-(4-methyl-piperazin-1-yl)-pyrimidine (30 mg, 0.1 mmol) in methanol (2 mL) was added 10% Pd/C (15 mg). The resulting mixture was stirred under hydrogen balloon overnight. Palladium on carbon was removed through Celite® filtration. The filtrate was dried and purified by TLC plate to yield the title compound as a solid.

reactant | 2-chloro-4-(3-chloro-thiophen-2-yl)-6-(4-methyl-piperazin-1-yl)-pyrimidine | 0.1 mmol, 30 mg | ClC1=NC(=CC(=N1)C=1SC=CC1Cl)N1CCN(CC1)C | C13H14Cl2N4S
solvent | methanol | 2 mL | CO | CH4O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 2-Chloro-4-(4-methyl-piperazin-1-yl)-6-thiophen-2-yl-pyrimidine | ClC1=NC(=CC(=N1)N1CCN(CC1)C)C=1SC=CC1 | C13H15ClN4S
